US06548499B1
N-(6,7-Dimethoxy-3-pyridin-2-yl-quinoxalin-2-yl)-N′,N′-dimethyl-cyclohexane-1,4-diamine
A solution of 2-chloro-6,7-dimethoxy-3-pyridin-2-yl-quinoxaline (0.91 g) and N,N-dimethyl-cyclohexane-1,4-diamine (0.86 g) in toluene (30 mL) was refluxed under nitrogen atmosphere for 16 hours. The reaction mixture was cooled, filtered, and concentrated under vacuum. The residue was purified by flash chromatography (silica gel, 1:9 methanol/dichloromethane) to give a yellow solid. This solid was recrystallized in ethyl acetate/hexane to give the product as yellow crystals (0.92 g); mp 168-171° C.

reactant | 2-chloro-6,7-dimethoxy-3-pyridin-2-yl-quinoxaline | 0.91 g | ClC1=NC2=CC(=C(C=C2N=C1C1=NC=CC=C1)OC)OC | C15H12ClN3O2
reactant | N,N-dimethyl-cyclohexane-1,4-diamine | 0.86 g | CN(C1CCC(CC1)N)C | C8H18N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | N-(6,7-Dimethoxy-3-pyridin-2-yl-quinoxalin-2-yl)-N′,N′-dimethyl-cyclohexane-1,4-diamine | 0.92 g | COC=1C=C2N=C(C(=NC2=CC1OC)NC1CCC(CC1)N(C)C)C1=NC=CC=C1 | C23H29N5O2
